US06329391B1
5-Bromo-3-chloro-2,4-difluorobenzoyl chloride
A quantity of 5.2 g of 5-bromo-3-chloro-2,4-difluorobenzoic acid is suspended in 30 ml of dichloromethane; then 2.92 g of oxalyl chloride is added, and 3 drops of dry DMF are added. The mixture is stirred at room temperature for 3 hours and the desired compound is isolated after evaporation of the solvent.

reactant | 5-bromo-3-chloro-2,4-difluorobenzoic acid | 5.2 g | BrC=1C(=C(C(=C(C(=O)O)C1)F)Cl)F | C7H2BrClF2O2
reactant | oxalyl chloride | 2.92 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 5-Bromo-3-chloro-2,4-difluorobenzoyl chloride | BrC=1C(=C(C(=C(C(=O)Cl)C1)F)Cl)F | C7HBrCl2F2O
